US07282494B2
1-(5-Bromo-3-pyridyl)-4-tert-butoxycarbonylhomopiperazine (Compound 2F14)
A mixture of 1-(5-bromo-3-pyridyl)-homopiperazine (19.0 g, 74.2 mmol), and di-tert-butyl dicarbonat (16.2 g, 74.2 mmol), triethylamine (7.5 g, 74.2 mmol) and dichloromethane (200 ml) was stirred at room. temperature for 1 hours. The crude mixture was purified by chromatography on silica gel using ethyl acetate: petroleum (1:1) as solvent. Yield 16.6 g, 55%.

reactant | 1-(5-bromo-3-pyridyl)-homopiperazine | 74.2 mmol, 19.0 g | BrC=1C=C(C=NC1)N1CCNCCC1 | C10H14BrN3
reactant | di-tert-butyl dicarbonat | 74.2 mmol, 16.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 74.2 mmol, 7.5 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 1-(5-Bromo-3-pyridyl)-4-tert-butoxycarbonylhomopiperazine | BrC=1C=C(C=NC1)N1CCN(CCC1)C(=O)OC(C)(C)C | C15H22BrN3O2
